US06528504B2
5,11-Dihydro-5-[2-[N-(3-methoxyphenethyl)-N-methylamino]ethyl]dibenzo [b,e][1,4]oxazepine Hydrochloride
5 ml of 2 M hydrochloric acid/ethyl ether was added to 5,11-dihydro-5-[2-[N-(3-methoxyphenethyl)-N-methylamino]ethyl]dibenzo [b,e][1,4]oxazepine (275 mg, 0.71 mmol), and they were stirred for 1 hour. The solvent was evaporated under reduced pressure to obtain the title compound in the form of a yellow solid (220 mg, 73%).

reactant | hydrochloric acid ethyl ether | 2 M, 5 ml | Cl.C(C)OCC
reactant | 5,11-dihydro-5-[2-[N-(3-methoxyphenethyl)-N-methylamino]ethyl]dibenzo [b,e][1,4]oxazepine | 0.71 mmol, 275 mg | COC=1C=C(CCN(C)CCN2C3=C(OCC4=C2C=CC=C4)C=CC=C3)C=CC1 | C25H28N2O2
product | 5,11-Dihydro-5-[2-[N-(3-methoxyphenethyl)-N-methylamino]ethyl]dibenzo [b,e][1,4]oxazepine Hydrochloride | Cl.COC=1C=C(CCN(C)CCN2C3=C(OCC4=C2C=CC=C4)C=CC=C3)C=CC1 | InChI=1S/C25H28N2O2.ClH/c1-26(15-14-20-8-7-10-22(18-20)28-2)16-17-27-23-11-4-3-9-21(23)19-29-25-13-6-5-12-24(25)27;/h3-13,18H,14-17,19H2,1-2H3;1H
